US20010006805A1
A reactor vessel is charged with 3-amino-2-bromopyridine (2.0 g, 11.4 mmol), 2,2,2-trifluoroethanol (20 g, 200 mmol), and methanesulfonic acid (1.7 g, 18 mmol). The solution is heated to the range 65° C. to 70° C. and then t-butylnitrite (1.46 g of a 90% solution, 12.7 mmol) is added drop-wise to the vessel while maintaining the temperature at 55° C. to 70° C. After nitrogen evolution ceases, the solution is cooled, neutralized with aqueous saturated sodium bicarbonate solution and then extracted with MTBE. The solvent is removed by evaporation to obtain 2-bromo-3-(2,2,2-trifluoroethoxy)pyridine as a crude oil (2.85 g, crude yield of 96%).

reactant | 3-amino-2-bromopyridine | 11.4 mmol, 2.0 g | NC=1C(=NC=CC1)Br | C5H5BrN2
reactant | 2,2,2-trifluoroethanol | 200 mmol, 20 g | FC(CO)(F)F | C2H3F3O
reactant | methanesulfonic acid | 18 mmol, 1.7 g | CS(=O)(=O)O | CH4O3S
reactant | t-butylnitrite | C(C)(C)(C)ON=O | C4H9NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-bromo-3-(2,2,2-trifluoroethoxy)pyridine | BrC1=NC=CC=C1OCC(F)(F)F | C7H5BrF3NO
